US05300506
Ethyl 5-nitro-3-indolepropionate
To a solution of 5-(5-nitroindol-3-ylmethyl)-2,2-dimethyl-1,3-dioxane-4,6-dione (10.0 g, 0.031 mol) in a mixture of pyridine (80 mL) and absolute ethanol (20 mL) was added 0.1 g of copper powder and the mixture was refluxed under Ar for 2h. After being stirred at room temperature for 66 h the mixture was refluxed for an additional 1 h. The cooled mixture was filtered and the filtrate was evaporated. The resulting residue was triturated with ether and a little CH2Cl2 to give the title compound (7.3 g, 89%) as a solid,

reactant | 5-(5-nitroindol-3-ylmethyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | 0.031 mol, 10.0 g | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)CC1C(OC(OC1=O)(C)C)=O | C15H14N2O6
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | pyridine | 80 mL | N1=CC=CC=C1 | C5H5N
catalyst | copper | 0.1 g | [Cu] | Cu
product | Ethyl 5-nitro-3-indolepropionate | 7.3 g, 89% | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)CCC(=O)OCC | C13H14N2O4
